US05073205
A copolymer was prepared as in Example 1, but feeding an aqueous blend of acrylamide (AM) and N-MAM to a heel to yield poly(AM/N-MAM) 1:4 molar ratio.

reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | N-MAM | C=CC(=O)NCO | C4H7NO2
product | AM N-MAM | C(C=C)(=O)N.C=CC(=O)NCO | InChI=1S/C4H7NO2.C3H5NO/c1-2-4(7)5-3-6;1-2-3(4)5/h2,6H,1,3H2,(H,5,7);2H,1H2,(H2,4,5)
